US08012974B2
1-[(R)-1-(Propane-1-sulfonyl)-piperidin-3-yl]-3-[5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-urea was prepared in the same manner from 1-piperidin-3-yl-3-[5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-urea dihydrochloride and n-propylsulfonyl chloride.

reactant | 1-piperidin-3-yl-3-[5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-urea dihydrochloride | Cl.Cl.N1CC(CCC1)NC(=O)NC=1N=C2C(=NC1)N(C=C2)COCC[Si](C)(C)C
reactant | n-propylsulfonyl chloride | C(CC)S(=O)(=O)Cl | C3H7ClO2S
product | 1-[(R)-1-(Propane-1-sulfonyl)-piperidin-3-yl]-3-[5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-urea | C(CC)S(=O)(=O)N1C[C@@H](CCC1)NC(=O)NC=1N=C2C(=NC1)N(C=C2)COCC[Si](C)(C)C | C21H36N6O4SSi
